US05981559
At -78° C., oxalyl chloride (135 mg, 1.06 mmol) was added to a mixture of 4-[2-(2-benzothiazolyl)vinyl]benzoic acid (247 mg, 0.88 mmol), dimethylformamide (one drop) and dichloromethane (10 ml), and the resulting mixture was stirred at room temperature for 2 hours and then concentrated under reduced pressure. Under ice-cooling, the resulting compound was gradually added to a mixture of 2-amino-4-[3-(4-chlorophenylsulfonyl)propyl]phenol hydrochloride (320 mg, 0.88 mmol), pyridine (3 ml) and dichloromethane (10 ml), and the resulting mixture was stirred at room temperature for 12 hours. The reaction solution was concentrated under reduced pressure, water was added to the resulting residue, and the mixture was heated until reflux and then cooled. Then, the solid material formed was collected by filtration and dried under reduced pressure. Ethanol (10 ml) was added to the resulting solid material, and the mixture was heated until reflux and then cooled. The crystals formed were collected by filtration and dried under reduced pressure to give 4-[2-(2-benzothiazolyl)vinyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxybenzanilide (335 mg, 0.57 mmol, 65%) as colorless crystals.

reactant | oxalyl chloride | 1.06 mmol, 135 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[2-(2-benzothiazolyl)vinyl]benzoic acid | 0.88 mmol, 247 mg | S1C(=NC2=C1C=CC=C2)C=CC2=CC=C(C(=O)O)C=C2 | C16H11NO2S
reactant | 2-amino-4-[3-(4-chlorophenylsulfonyl)propyl]phenol hydrochloride | 0.88 mmol, 320 mg | Cl.NC1=C(C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)O
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[2-(2-benzothiazolyl)vinyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxybenzanilide | 0.57 mmol, 335 mg, 65% | S1C(=NC2=C1C=CC=C2)C=CC2=CC=C(C(=O)NC1=C(C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)O)C=C2 | C31H25ClN2O4S2
